US04665188
3.9 g of 5-bromo-2-indancarboxylic acid and 2 g of 2-amino-2-methyl-1-propanol were added to 100 ml of xylene. The mixture was heated under reflux for 24 hours while removing the water produced. The reaction mixture was concentrated in vacuo and 20 ml of water was added to the residue. The mixture was extracted with chloroform. The extract was washed with wa-ter, dried and then concentrated in vacuo. The residue was purified by silica gel column chromatography to give 3 g of 2-(5-bromoindan-2-yl)-4,4-dimethyloxazoline as an oil.

reactant | 5-bromo-2-indancarboxylic acid | 3.9 g | BrC=1C=C2CC(CC2=CC1)C(=O)O | C10H9BrO2
reactant | 2-amino-2-methyl-1-propanol | 2 g | NC(CO)(C)C | C4H11NO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(5-bromoindan-2-yl)-4,4-dimethyloxazoline | 3 g | BrC=1C=C2CC(CC2=CC1)C=1OCC(N1)(C)C | C14H16BrNO
